* D:\aletorres\Documentos\git\Facultad\TC2\JupyterNotebook\trabajo_semanal3_torres\pasabjos2.asc
R Vo N002 {{1/(C*W01)}}
C Vo 0 {C}
L Vi N001 {L}
R1 N001 0 {R}
C1 N001 0 {C}
XU1 N002 N001 N002 opamp Aol=100K GBW=10Meg
V1 Vi 0 SINE(0 10m 1k) AC 10m
.param Q=0.954
.param C=100n
.param W01=11310
.param W02 = 11870
.param L = 1/(W02*W02*C)
.param R =Q/(C*W02)
.ac dec 10 1 100k
.inc opamp.sub
* Simulación implementando capacitores de 900nf.\nReparametrizando los componentes.
.backanno
.end
